US04129572
The 3,5-dimethoxy-4-benzenesulphonyloxy-acetophenone obtained as described above was reacted with phenylhydrazine following the procedure set out in Example 1b and 3,5-dimethoxy-4-benzenesulphonyloxy-acetophenone phenylhydrazone was obtained with a yield of 100% in crude product, which was recrystallized from methanol and directly used for the following step.

reactant | 3,5-dimethoxy-4-benzenesulphonyloxy-acetophenone | COC=1C=CC=C(C1S(=O)(=O)OCC(=O)C1=CC=CC=C1)OC | C16H16O6S
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
product | 3,5-dimethoxy-4-benzenesulphonyloxy-acetophenone phenylhydrazone | yield of 100% | C1(=CC=CC=C1)NN=C(COS(=O)(=O)C1=C(C=CC=C1OC)OC)C1=CC=CC=C1 | C22H22N2O5S
